US08067611B2
a) Preparation of 1-(pyridin-2-yl)butane-1,3-dione
A sodium methoxide solution (28% in methanol) was added dropwise to a mixture of 10 g (73 mmol) methyl picolinate and 25 ml (124 mmol) of acetone in 150 ml of tetrahydrofuran. The mixture was stirred at 20° C. for 3 hours and the solvent was removed under reduced pressure. The residue was taken up in water, acidified with 2 molar aqueous hydrochloric acid and extracted with dichloromethane. Drying of the combined organic phases and removal of the solvent under reduced pressure gave 7.940 g of product (60% of theory); NMR (CDCl3, 400 MHz): 2.23 (s, 3H); 6.81 (s, 1H); 7.41 (m, 1H); 7.83 (m, 1H); 8.09 (m, 1H); 8.68 (m, 1H); 15.7 (br, 1H).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl picolinate | 73 mmol, 10 g | N1=C(C=CC=C1)C(=O)OC | C7H7NO2
reactant | acetone | 124 mmol, 25 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(pyridin-2-yl)butane-1,3-dione | 7.940 g, 60% | N1=C(C=CC=C1)C(CC(C)=O)=O | C9H9NO2
